* source ECE250PREPAREPART2
M_M2         VO VIN 0 0 Mn  
+ L=1u  
+ W=1u         
V_V1         VIN 0  DC 0
V_V2         N02699 0  DC 5
M_M4         VO VIN N02699 N02699 Mp  
+ L=1u  
+ W=3u         
